2110-07-22 08:01:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - pt w increased work of breathing in afternoon, ABG 7.42/54/67 -->
   intubated and vented on AC Vt=450, RR=12, FiO2=60%, PEEP=5
   - right arm PICC placed
   - left radial a-line placed
   - continued to be in afib
   - continued on cefepime, vanc, cipro
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2110-7-21**] 07:03 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-7-22**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 83 (66 - 87) bpm
   BP: 106/52(70) {104/52(69) - 138/68(92)} mmHg
   RR: 16 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                    149 mL
                                                                    431 mL
   PO:
             TF:
   IVF:
                                                                    149 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    460 mL
   Urine:
                                                                    640 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -991 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/57/99.[**Numeric Identifier 8**]/31/7
   Ve: 5.7 L/min
   PaO2 / FiO2: 250
   Physical Examination
   NAD: Intubated, sedated
   CV: irregularly irreg
   CHEST: bronchial bs w crackles
   ABD: soft, NT/ND
   EXT: warm, 1+ pitting edema b/l, palpable pulses
   Labs / Radiology
   289 K/uL
   10.0 g/dL
   193 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   33 mg/dL
   105 mEq/L
   144 mEq/L
   30.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2110-7-21**]  01:34 PM
                             [**2110-7-21**]  04:49 PM
                             [**2110-7-21**]  08:34 PM
                             [**2110-7-21**]  09:06 PM
                             [**2110-7-22**]  01:09 AM
                             [**2110-7-22**]  03:38 AM
                             [**2110-7-22**]  03:53 AM
                             [**2110-7-22**]  07:46 AM
   WBC
   11.5
   Hct
   30.7
   Plt
   289
   Cr
   0.9
   0.8
   TCO2
   35
   36
   35
   34
   35
   36
   Glucose
   162
   193
   Other labs: PT / PTT / INR:50.1/42.5/5.5, Fibrinogen:546 mg/dL, Lactic
   Acid:1.3 mmol/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   74F w dementia, COPD, Afib, recent PE (on home coumadin), originally
   admitted for dyspnea/hypoxia, transferred to the [**Hospital Unit Name 10**] in the setting of
   worsening hypoxia and AFib with RVR.
   # Hypoxic Respiratory Failure:
   Most likely from worsening left pleural effusion, likely pneumonia
   given cough and probable infiltrate on CXR, and possibly some pulmonary
   edema.  Recently on lasix.  She also has a chronic hypercarbia, which
   may be related to her chronic narcotic use.  Note that she has a h/o of
   intubation for MRSA pneumonia. Was intubated on [**7-21**]
   - will cover for healthcare associated pneumonia with cefepime,
   vancomycin, and ciprofloxacin (day 1 = [**7-21**], although she did start
   levofloxacin on [**7-20**])
   - sputum Cx, blood Cx, follow results
   - changing vent to CPAP, trying to wean, go to [**6-10**] with less sedation
   - serial ABGs as needed
   - continue chronic prednisone at 5mg daily
   - continue home dose of lasix for now, give extra as needed to help
   with weaning
   - continue home advair, atrovent, and albuterol (for ?? COPD)
   - will remove PICC once abx complete
   # AFib with rapid rate:
   Likely developed rapid rate in response to hypoxia, although rapid rate
   could also have caused pulmonary edema due to decreased filling time.
   Now back to baseline heart rate in 80s after metoprolol.
   - continue PO metoprolol and diltiazem per home doses
   - may use metoprolol 5mg IV prn rapid rate
   - during prior admissions, was not on coumadin because of "fall risk."
   Will need to be readdressed in future if she has completed coumadin
   course for her PE.
   - monitor on tele
   # ST depressions / elevated troponin:
   Lateral ST depressions are not new and are likely related to her LVH.
   The elevated troponin did not trend up and is most likely from her
   chronic PE, although she is fairly far out from her initial
   presentation with PE 4 months ago.
   - ASA
   - metoprolol
   # Likely UTI:
   Patient has h/o E coli UTI in [**5-15**], was sensitive to cefepime.
   Currently with UA suggestive of infection.
   - continue cefepime (day 1 = [**7-21**])
   - f/u UCx
   # Recent PE diagnosed [**3-17**]:
   - hold coumadin while in ICU
   - INR currently supratherapeutic; once INR < 3, will start heparin gtt
   # Hypernatremia: Improving today to 144
   Likely from lack of access to free water.
   - gentle fluids with D5 and recheck in PM
   # Dyslipidemia:  continue statin
   # DM:
   - continue home insulin with sliding scale
   # Anemia:  baseline Hct 31-33, current Hct 33
   - monitor
   # Osteoporosis:  per chart records, however not on medications and is
   on chronic steroids
   - should have outpatient eval
   # Chronic joint pain:
   - judicious use of home medications, including vicodin
   - lidoderm patch for back
   # Anxiety and Depression:
   - continue paxil
   - clonazepam 0.5mg [**Hospital1 **] per home regimen, but currently on PRN
   # Dementia:
   Frequent reorientation.  Will attempt to avoid disturbance of sleep
   cycle in the ICU.
   # GERD:  per records
   - home PPI
   # FEN:  Speech and swallow eval for possible dysphagia once extuabted;
   NPO for now
   # Access:  20g and a 22g PIV at present, PICC
   # PPx:  INR supratherapeutic, once INR < 3, will start heparin gtt;
   continue home PPI
   # Comm:  with daughter [**Name (NI) **] who is her HCP ([**Telephone/Fax (1) 1158**]). Other
   daughter is [**Name (NI) 1271**] [**Telephone/Fax (1) 6683**].
   # Code:  FULL code confirmed with HCP
   # Dispo:  ICU pending clinical improvement, weaning vent today
   ------ Protected Section ------
   Ms. [**Known lastname 1219**] is a 74 yo with history of dementia, COPD, Afib, and recent
   PE on coumadin who was admitted from her nursing home on [**7-20**] with
   several days of increasing dyspnea and hypoxia to 81% on 3L NC. Per
   review of the NH records, it appears she also had increased cough
   productive of brown sputum as well some fatigue.
   Intubated last night for increased work of breathing and hypoxia
   T 98.5  BP 116/70   P 80   RR 14  PEEP 5 mmHg  Fio2 0.4
   General: Sedated, vented
   Chest: CTA
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: trace edema
   WBC 11.5
   Hct: 30.7
   K+: 2.7
   Glucose: 193:
   Assessment/Plan:
   1)      Acute Respiratory Failure: likely secondary to pneumonia and
   mucous plugging as chest radiograph from yesterday showed extensive
   collapse on the left side and now there is marked clearing with some
   retrocardiac infiltrate and a persistent LLL effusion
   a.       SBT
   b.      Hold sedation
   c.       Diuresis if extubation fails
   d.      Continue antibiotics
   2)      Atrial Fibrillation with RVR
   3)      Coagulopathy: INR is 5.5 -> will re-start heparin when INR is
   about 3.0
   4)      PE
 as noted, will start heparin when INR about 3.0 range
   5)      DM
   6)      Dementia
   7)      NPO for now
 will address after SBT
   8)      Full Code
   9)      Access: PICC line
   Critical Care Time: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2110-7-23**] 12:55 AM ------

2110-07-23 08:03:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - was on PS 5/0 for 2-3 hours, then ABG with 7.1/70/94 and pt agitated,
   placed back on CPAP 12/5 with some sedation
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2110-7-21**] 07:03 PM
   Vancomycin - [**2110-7-22**] 08:39 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2110-7-23**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 81 (75 - 103) bpm
   BP: 96/41(58) {95/41(58) - 134/65(89)} mmHg
   RR: 14 (10 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.1 kg (admission): 72.4 kg
   Height: 65 Inch
             Total In:
                                                                  1,270 mL
                                                                     83 mL
   PO:
             TF:
   IVF:
                                                                  1,030 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    290 mL
   Urine:
                                                                  1,450 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                   -207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 416 (389 - 436) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 18 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.36/60/98.[**Numeric Identifier 500**]/35/5
   Ve: 6.7 L/min
   PaO2 / FiO2: 245
   Physical Examination
   NAD: Intubated, awake, responds to questions, follows commands
   CV: irregularly irreg
   CHEST: bronchial bs w improved basilar crackles
   ABD: soft, NT/ND
   EXT: warm, min edema b/l, palpable pulses
   Labs / Radiology
   300 K/uL
   10.4 g/dL
   113 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.5 mEq/L
   24 mg/dL
   107 mEq/L
   148 mEq/L
   31.8 %
   12.8 K/uL
        [image002.jpg]
                             [**2110-7-22**]  01:09 AM
                             [**2110-7-22**]  03:38 AM
                             [**2110-7-22**]  03:53 AM
                             [**2110-7-22**]  07:46 AM
                             [**2110-7-22**]  11:34 AM
                             [**2110-7-22**]  02:11 PM
                             [**2110-7-22**]  05:03 PM
                             [**2110-7-22**]  05:16 PM
                             [**2110-7-23**]  04:27 AM
                             [**2110-7-23**]  04:46 AM
   WBC
   11.5
   12.8
   Hct
   30.7
   31.8
   Plt
   289
   300
   Cr
   0.8
   0.8
   0.7
   TCO2
   34
   35
   36
   34
   36
   37
   35
   Glucose
   193
   140
   113
   Other labs:
   PT / PTT / INR:35.5/42.5/3.6,
   Fibrinogen:546 mg/dL,
   Lactic Acid:1.3 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Micro: [**7-20**] urine cx
 E. coli
   Assessment and Plan
   74F w dementia, COPD, Afib, recent PE (on home coumadin), originally
   admitted for dyspnea/hypoxia, transferred to the [**Hospital Unit Name 10**] in the setting of
   worsening hypoxia and AFib with RVR.
   # Hypoxic Respiratory Failure:
   [**3-10**] HCAP and mild pulm edema [**3-10**] afib w RVR in the setting of COPD, H/o
   of intubation for MRSA pneumonia. Was intubated on [**7-21**]
   - will cover for healthcare associated pneumonia with cefepime,
   vancomycin, and ciprofloxacin (day 1 = [**7-21**], although she did start
   levofloxacin on [**7-20**])
   - sputum Cx, blood Cx, follow results
   - changing vent to CPAP, trying to wean, go to [**6-10**] with less sedation
   - serial ABGs as needed
   - continue chronic prednisone at 5mg daily
   - continue home dose of lasix for now, give extra as needed to help
   with weaning
   - continue home advair, atrovent, and albuterol (for ?? COPD)
   - will remove PICC once abx complete
   # AFib with rapid rate:
   Likely developed rapid rate in response to hypoxia, although rapid rate
   could also have caused pulmonary edema due to decreased filling time.
   Now back to baseline heart rate in 80s after metoprolol.
   - continue PO metoprolol and diltiazem per home doses
   - may use metoprolol 5mg IV prn rapid rate
   - during prior admissions, was not on coumadin because of "fall risk."
   Will need to be readdressed in future if she has completed coumadin
   course for her PE.
   - monitor on tele
   # ST depressions / elevated troponin:
   Lateral ST depressions are not new and are likely related to her LVH.
   The elevated troponin did not trend up and is most likely from her
   chronic PE, although she is fairly far out from her initial
   presentation with PE 4 months ago.
   - ASA
   - metoprolol
   # Likely UTI:
   Patient has h/o E coli UTI in [**5-15**], was sensitive to cefepime.
   Currently with UA suggestive of infection.
   - continue cefepime (day 1 = [**7-21**])
   - f/u UCx
   # Recent PE diagnosed [**3-17**]:
   - hold coumadin while in ICU
   - INR currently supratherapeutic; once INR < 3, will start heparin gtt
   # Hypernatremia: Improving today to 144
   Likely from lack of access to free water.
   - gentle fluids with D5 and recheck in PM
   # Dyslipidemia:  continue statin
   # DM:
   - continue home insulin with sliding scale
   # Anemia:  baseline Hct 31-33, current Hct 33
   - monitor
   # Osteoporosis:  per chart records, however not on medications and is
   on chronic steroids
   - should have outpatient eval
   # Chronic joint pain:
   - judicious use of home medications, including vicodin
   - lidoderm patch for back
   # Anxiety and Depression:
   - continue paxil
   - clonazepam 0.5mg [**Hospital1 **] per home regimen, but currently on PRN
   # Dementia:
   Frequent reorientation.  Will attempt to avoid disturbance of sleep
   cycle in the ICU.
   # GERD:  per records
   - home PPI
   ICU Care
   Nutrition: NPO, needs speech and swallow eval once extubated
   Glycemic Control:
   Lines:
   22 Gauge - [**2110-7-21**] 12:38 PM
   PICC Line - [**2110-7-21**] 02:11 PM
   Arterial Line - [**2110-7-21**] 07:15 PM
   Prophylaxis:
   DVT: anticoagulated, start heparin gtt once INR < 3
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: daughter [**Name (NI) **] who is her HCP ([**Telephone/Fax (1) 1158**]).
   Other daughter is [**Name (NI) 1271**] [**Telephone/Fax (1) 6683**]
   Code status:
   Disposition:

2110-07-24 07:16:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - Reached I/O goal - 1.2 goal
   - failed SBT
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2110-7-23**] 06:17 PM
   Vancomycin - [**2110-7-23**] 08:47 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2110-7-23**] 05:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-7-24**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 96 (74 - 99) bpm
   BP: 127/59(81) {112/50(71) - 150/70(96)} mmHg
   RR: 16 (9 - 16) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.1 kg (admission): 72.4 kg
   Height: 65 Inch
             Total In:
                                                                  1,943 mL
                                                                     52 mL
   PO:
             TF:
   IVF:
                                                                  1,573 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    250 mL
   Urine:
                                                                  2,085 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -142 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 425 (338 - 441) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.34/69/104/33/8
   Ve: 6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   NAD: Intubated, awake, responds to questions, follows commands
   CV: irregularly irreg
   CHEST: bronchial bs w improved basilar crackles
   ABD: soft, NT/ND
   EXT: warm, min edema b/l, palpable pulses
   Labs / Radiology
   273 K/uL
   10.3 g/dL
   118 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.6 mEq/L
   17 mg/dL
   103 mEq/L
   144 mEq/L
   31.7 %
   15.1 K/uL
        [image002.jpg]
                             [**2110-7-22**]  02:11 PM
                             [**2110-7-22**]  05:03 PM
                             [**2110-7-22**]  05:16 PM
                             [**2110-7-23**]  04:27 AM
                             [**2110-7-23**]  04:46 AM
                             [**2110-7-23**]  12:05 PM
                             [**2110-7-23**]  02:59 PM
                             [**2110-7-23**]  05:37 PM
                             [**2110-7-24**]  04:57 AM
                             [**2110-7-24**]  05:29 AM
   WBC
   12.8
   15.1
   Hct
   31.8
   31.7
   Plt
   300
   273
   Cr
   0.8
   0.7
   0.7
   0.7
   TCO2
   36
   37
   35
   36
   37
   39
   Glucose
   140
   113
   193
   118
   Other labs: PT / PTT / INR:32.2/42.5/3.2, Fibrinogen:546 mg/dL, Lactic
   Acid:1.3 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   74F w dementia, COPD, Afib, recent PE (on home coumadin), originally
   admitted for dyspnea/hypoxia, transferred to the [**Hospital Unit Name 10**] in the setting of
   worsening hypoxia and AFib with RVR.
   # Hypoxic Respiratory Failure: [**3-10**] HCAP, LLL effusion, ? mucous
   plugging, and pulm edema [**3-10**] afib w RVR in the setting of COPD
   exacerbation. S/p intubation on [**7-21**]. Prior h/o of intubation for MRSA
   pneumonia.
   - HCAP: cefepime, vancomycin, and ciprofloxacin ([**7-21**] - ), aiming for
   an 8-day course
   - f/u sputum Cx, blood Cx
   - COPD: continuing prednisone 5mg daily (home dose) and advair,
   atrovent, albuterol
   - Pulm edema: diuresis w lasix to goal of even to -500 cc/day
   - continue weaning sedation, ventilation pressures - ? repeat SBT
   - serial ABGs as needed
   # UTI: [**3-10**] E. coli on urine cx [**7-20**], prior h/o of cipro-resistant
   cefepime-sensitive E. coli  UTI in [**5-15**].
   - continue cefepime (day 1 = [**7-21**]) course (8 day course for HCAP will
   cover)
   - f/u urine cx, abx sensitivities
   # Hypernatremia: likely [**3-10**] intravascular dehydration. Na 148, free
   water deficit 2.5L
   - monitor Na
   # Afib/RVR: likely [**3-10**] hypoxia, improved
   - continue metoprolol 25 TID and diltiazem 90 QID per home doses
   - may use metoprolol 5mg IV prn rapid rate
   - during prior admissions, was not on coumadin because of "fall risk."
   Will need to be readdressed in future if she has completed coumadin
   course for her PE.
   - monitor on tele
   # PE: dx
d in [**3-17**]:
   - INR currently supratherapeutic; once INR < 3, will start heparin gtt
   # DM: NPO
   - continue home insulin with sliding scale
   # Anemia: likely [**3-10**] ACD. baseline Hct 31-33, stable
   - monitor Hct daily
   # Anxiety and Depression:
   - continue paroxetine 30mg daily
   - clonazepam 0.5mg [**Hospital1 **] per home regimen, but currently on PRN
   # Dementia:
   - frequent reorientation.
   - attempt to avoid disturbance of sleep cycle in the ICU.
   # Chronic joint pain:
   - judicious use of home medications, including vicodin
   - lidoderm patch for back
   # Dyslipidemia: continue statin
   # GERD: continue pantoprazole
   ICU Care
   Nutrition:
   - nutrition c/s for tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2110-7-21**] 02:11 PM
   Arterial Line - [**2110-7-21**] 07:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree with
   the assessment and plan with the following modifications/emphasis:
   Ms. [**Known lastname 1219**] is a 74 year old with history of dementia, COPD, Afib, and
   recent PE on coumadin who was admitted from her nursing home on [**7-20**]
   with several days of increasing dyspnea and hypoxia.  She also had
   increased cough productive of brown sputum as well some fatigue.  In
   the ICU, her respiratory status ultimately worsened requiring
   intubation.
   T 99.3  BP 135/60  P 89  RR 14 SaO2: 100
   General: Sedated, on PS
   Chest: CTA
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: trace edema
   WBC 15.3
   Hct: 10.3
   Assessment/Plan:
   1) Acute Respiratory Failure: likely secondary to pneumonia and mucous
   plugging as chest radiograph prior showed extensive collapse on the
   left side and post-intubation there was significant clearing with some
   retrocardiac infiltrate and only a small persistent LLL effusion
   a. SBT
   b. Hold sedation
   c. Diuresis if extubation fails
   d. Continue antibiotics for pneumonia
   2) Atrial Fibrillation with RVR
   3) Coagulopathy: will re-start heparin when INR is about 3.0
   4) PE
 as noted, will start heparin when INR about 3.0 range
   5) DM
   6) Dementia
   7) Feeding: tube feeds
   8) Full Code
   9) Access: PICC line
   Addendum: Elevated pCO2 on spontaneous breathing trial with mild
   decrease in pH.  Though she has baseline elevated pCO2, this appears
   slightly higher and she still has somewhat depressed mental status.
   Thus, will continue to hold sedation and hold off on extubation at this
   time.  Will attempt another SBT tomorrow.
   Critical Care: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2110-7-24**] 18:42 ------

2110-07-25 10:40:00 Physician Attending Progress Note
Chief Complaint: Dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   COPD exacerbation, Afib with rapid RVR, HAP
   24 Hour Events:
                           History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2110-7-23**] 06:17 PM
   Vancomycin - [**2110-7-25**] 07:23 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2110-7-25**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-7-25**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 80 (76 - 100) bpm
   BP: 115/52(71) {91/45(61) - 162/77(104)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.1 kg (admission): 72.4 kg
   Height: 65 Inch
             Total In:
                                                                  1,429 mL
                                                                    321 mL
   PO:
             TF:
                                                                    167 mL
                                                                      1 mL
   IVF:
                                                                    952 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    295 mL
   Urine:
                                                                  1,950 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -521 mL
                                                                     26 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 321 (309 - 321) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 14 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.37/66/123/37/10
   Ve: 5.2 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, palpable nodules and
   mesh
   Extremities: Right: Absent, Left: Absent, Cyanosis
   Skin:  Not assessed
   Neurologic: Lethargic, sleepy, not following commands, with apnea
   Labs / Radiology
   9.9 g/dL
   292 K/uL
   175 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.7 mEq/L
   18 mg/dL
   103 mEq/L
   145 mEq/L
   31.3 %
   17.6 K/uL
        [image002.jpg]
                             [**2110-7-24**]  04:57 AM
                             [**2110-7-24**]  05:29 AM
                             [**2110-7-24**]  05:42 PM
                             [**2110-7-24**]  06:26 PM
                             [**2110-7-24**]  07:48 PM
                             [**2110-7-24**]  09:59 PM
                             [**2110-7-25**]  04:09 AM
                             [**2110-7-25**]  04:22 AM
                             [**2110-7-25**]  06:31 AM
                             [**2110-7-25**]  09:33 AM
   WBC
   15.1
   17.6
   Hct
   31.7
   31.3
   Plt
   273
   292
   Cr
   0.7
   0.8
   0.8
   TCO2
   39
   38
   37
   41
   41
   41
   40
   Glucose
   118
   143
   175
   Other labs: PT / PTT / INR:31.2/43.7/3.1, Fibrinogen:546 mg/dL, Lactic
   Acid:1.0 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR:
   Microbiology: Ecoli UTI
   sputum: opflora
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOXEMIA
   74 year old female with COPD, chronic hypercarbia, PEs, Afib with RVR
   with resp failure after superimposed HAP. Chr low dose steroids.
   - Resp failure:  Rx for HAP, PE, AFib, fluid overload and COPD. Altered
   mental status and apnea is the barrier to extubation. No e/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   [**Doctor Last Name **] at bedside.
   DD: ? hypercapnea causing altered mental status? Baseline bicarb is
   normal, is upto 37 with diuresis. Will add  diamox. Consider
   progesterone thereafter. Check urine tox for benzos and opiates.
   - ID: continue Cefepime/Vancomycin/Flagyl x 8 days total for HAP and
   UTI
   - Afib: controlled.
   - Rest per housestaff notes
   ICU Care
   ICU Care
   Nutrition: TF until midnight then hold
   Glycemic Control: SSI
   Lines:
   PICC Line - [**2110-7-21**] 02:11 PM
   Arterial Line - [**2110-7-21**] 07:15 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 129**] status: FC
   Disposition:  ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided.
   She will continue on the vent and will attempt extubation tomorrow if
   mental status improves. Otherwise, will continue with current plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2110-7-25**] 16:30 ------

2110-07-26 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - too sedated for extubation
   - restarted TF and then held TF after MN
   - IV lasix 40 --> ***
   - UTox + for benzo (stopped klonopin and percocet)
   - gave acetazolomide 250 mg x 1
   - vent [**11-10**] --> pCO2 60
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2110-7-25**] 06:18 PM
   Vancomycin - [**2110-7-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-7-26**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 86 (67 - 91) bpm
   BP: 116/55(77) {90/38(55) - 126/62(82)} mmHg
   RR: 19 (9 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.1 kg (admission): 72.4 kg
   Height: 65 Inch
             Total In:
                                                                  1,206 mL
                                                                    138 mL
   PO:
             TF:
                                                                      1 mL
   IVF:
                                                                    595 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    165 mL
   Urine:
                                                                  1,210 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -5 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 414 (321 - 551) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.40/62/134/31/11
   Ve: 4.1 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, palpable nodules and
   mesh
   Extremities: Right: Absent, Left: Absent, Cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   292 K/uL
   9.9 g/dL
   154 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.0 mEq/L
   22 mg/dL
   103 mEq/L
   144 mEq/L
   31.3 %
   17.6 K/uL
        [image002.jpg]
                             [**2110-7-24**]  07:48 PM
                             [**2110-7-24**]  09:59 PM
                             [**2110-7-25**]  04:09 AM
                             [**2110-7-25**]  04:22 AM
                             [**2110-7-25**]  06:31 AM
                             [**2110-7-25**]  09:33 AM
                             [**2110-7-25**]  12:40 PM
                             [**2110-7-25**]  04:58 PM
                             [**2110-7-26**]  05:41 AM
                             [**2110-7-26**]  05:56 AM
   WBC
   17.6
   Hct
   31.3
   Plt
   292
   Cr
   0.8
   0.9
   0.9
   TCO2
   37
   41
   41
   41
   40
   39
   40
   Glucose
   175
   136
   154
   Other labs: PT / PTT / INR:25.9/40.3/2.5, Fibrinogen:546 mg/dL, Lactic
   Acid:1.0 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   74 year old female with multiple chronic medical problems presenting
   with shortness of breath and cough, intubated for respiratory distress.
   1. Respiratory failure:  currently being treated for HAP with
   Cefepime/Vancomycin/Flagyl.   Patient afebrile. Has leukocytosis and
   last dose of steroids was on [**7-21**].   Inability to wean from vent at
   this time more a matter of sedation as patient has periods of apnea,
   and when she does breath, her tidal volumes are low.   She was diuresed
   over the last two days with improvement in her CXR findings on the [**7-24**]
   film.  No clinical evidence of ongoing COPD exacerbation
   -Continue current antibiotics, plan for 8 day course
   -Continue diuresis in am, goal negative 500 cc-1L. She had brief
   hypotensive episode, but responded nicely to 500 cc bolus. Overall will
   benefit from diuresis.
   -Continue standing COPD medications including albuterol/atrovent nebs,
   prednisone 5 mg, fluticasone
   -Rate control atrial fibrillation, as flashed in setting of RVR
   -Vt low on pressure support trial tonight as patient remains sedated
   2.  Sedation:  Patient has been off sedation for 18 hours, but remains
   minimally arousable.  Bolus propofol as needed.  Creatinine stable and
   no evidence of liver dysfunction so unclear why sedatives with
   prolonged effect. Responds to commands with upper extremities.
   -Extubate once more awake and cooperative
   3. Atrial fibrillation: continue current medications with metoprolol 25
   mg tid and diltiazem 90 mg four times per day. On coumadin for history
   of PE, but not chronically on AC.
   4. h/o PE:  INR currently 3.2, goal [**3-11**].
   5. E. coli UTI:  sensitive to Cefepime, continue to complete 7 day
   course. Unclear if Foley changed.
   -d/c foley once extubated
   6. Hypernatremia: improved with D5W initially but starting to trend
   up.  Hold TF/flushes in am for possible extubation.
   -Recheck Na in am
   7. Dyslipidemia: continue simvastatin
   8. Anemia: drifting down since admission, but currently at baseline.
   Continue to trend
   9. Chronic joint pain: Lidocaine patch
   10. Anxiety/depression: clonezepam, paroxetine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2110-7-21**] 02:11 PM
   Arterial Line - [**2110-7-21**] 07:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-07-26 08:28:00 Physician Attending Progress Note
Chief Complaint: Resp distress
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Afib RVR
   24 Hour Events:
   Too sedated with apnea for extubation.
   Klonipin/percocet stopped.
   Started diamox for hypercarbia.
   Tolerating SBT this am, more awake than yesterday
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2110-7-25**] 06:18 PM
   Vancomycin - [**2110-7-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-7-26**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 86 (67 - 91) bpm
   BP: 116/55(77) {90/38(55) - 126/62(82)} mmHg
   RR: 19 (9 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.1 kg (admission): 72.4 kg
   Height: 65 Inch
             Total In:
                                                                  1,206 mL
                                                                    144 mL
   PO:
             TF:
                                                                      1 mL
   IVF:
                                                                    595 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    165 mL
   Urine:
                                                                  1,210 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -5 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 342 (342 - 551) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.40/62/134/31/11
   Ve: 6.3 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, palpable nodules and
   mesh
   Extremities: 2+ edema
   Skin:  wwp
   Neurologic: Following commands with stimulation
   Labs / Radiology
   9.9 g/dL
   292 K/uL
   154 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.0 mEq/L
   22 mg/dL
   103 mEq/L
   144 mEq/L
   31.3 %
   17.6 K/uL
        [image002.jpg]
                             [**2110-7-24**]  07:48 PM
                             [**2110-7-24**]  09:59 PM
                             [**2110-7-25**]  04:09 AM
                             [**2110-7-25**]  04:22 AM
                             [**2110-7-25**]  06:31 AM
                             [**2110-7-25**]  09:33 AM
                             [**2110-7-25**]  12:40 PM
                             [**2110-7-25**]  04:58 PM
                             [**2110-7-26**]  05:41 AM
                             [**2110-7-26**]  05:56 AM
   WBC
   17.6
   Hct
   31.3
   Plt
   292
   Cr
   0.8
   0.9
   0.9
   TCO2
   37
   41
   41
   41
   40
   39
   40
   Glucose
   175
   136
   154
   Other labs: PT / PTT / INR:25.9/40.3/2.5, Fibrinogen:546 mg/dL, Lactic
   Acid:1.0 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Vanc: 44
   CXR: stable
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOXEMIA
   74 year old female with COPD, chronic hypercarbia, PEs, Afib with RVR
   with resp failure after superimposed HAP. Chr low dose steroids
   prednisone 5 daily.
   - Resp failure:  Rx for HAP, PE, AFib, fluid overload and COPD. Altered
   mental status and apnea is the barrier to extubation. No e/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   [**Doctor Last Name **] at bedside.
   DD: ? hypercapnea causing altered mental status? Baseline bicarb is
   normal, was upto 37 with diuresis, down to 31 with 1 dose of diamox.
   Consider progesterone thereafter. Doing well on SBT today and more
   awake, following verbal commands. Attempt extubation trial after a dose
   of lasix.
   - ID: continue Cefepime/Vancomycin/Flagyl x 8 days total for HAP and
   UTI . WBC higher today, check diff
   - Afib: controlled.  Restart coumadin tonight for INR 2.5. Standing
   lasix to keep neg.
   - PE: restart coumadin tonight
   - Rest per housestaff notes
   ICU Care
   Nutrition: TF until midnight then hold
   Glycemic Control: SSI, NPH
   Lines:
   PICC Line - [**2110-7-21**] 02:11 PM
   Arterial Line - [**2110-7-21**] 07:15 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 129**] status: FC
   Disposition:  ICU
   ------ Protected Section ------
   MICU Attending Addendum
   Pt seen and examined with fellow. Agree with assessment and plan as
   noted above
   Running even
   Vent PSV 5/5 40% 340 cc x 18
   Vitals 99.7 110 50  hr 80
   Intubated and sedated
   RR
   Fair air movement no wheeze
   Abd soft =BS
   Ext 2+ edema
   Labs notable for hct 31 bun 22 cr 0.9
   1.       Resp Failure for CHF COPD and Hap- now on [**6-10**] and looking good
   for extubation today.
          Completing 8 days of vanco Cefipime Flagyl
          Anticoag for Afib
   Remaining issues as above
   ------ Protected Section Addendum Entered By:[**Name (NI) 260**] [**Last Name (NamePattern1) 261**], MD
   on:[**2110-7-26**] 15:15 ------

2110-07-27 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - diuresed
   - extubated, weaned to 3L NC oxygen, doing well
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2110-7-25**] 08:00 PM
   Cefipime - [**2110-7-26**] 05:34 PM
   Ciprofloxacin - [**2110-7-26**] 09:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2110-7-26**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-7-27**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 77 (74 - 89) bpm
   BP: 112/55(74) {88/41(56) - 128/71(87)} mmHg
   RR: 19 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.1 kg (admission): 72.4 kg
   Height: 65 Inch
             Total In:
                                                                    890 mL
                                                                    190 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    590 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    235 mL
   Urine:
                                                                  1,490 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -600 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 369 (342 - 369) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.41/58/122/32/10
   Ve: 6.1 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, palpable nodules and
   mesh
   Extremities: Right: Absent, Left: Absent, Cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   326 K/uL
   9.6 g/dL
   114 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.6 mEq/L
   25 mg/dL
   102 mEq/L
   142 mEq/L
   29.5 %
   18.2 K/uL
        [image002.jpg]
                             [**2110-7-25**]  06:31 AM
                             [**2110-7-25**]  09:33 AM
                             [**2110-7-25**]  12:40 PM
                             [**2110-7-25**]  04:58 PM
                             [**2110-7-26**]  05:41 AM
                             [**2110-7-26**]  05:56 AM
                             [**2110-7-26**]  09:32 AM
                             [**2110-7-26**]  12:45 PM
                             [**2110-7-27**]  05:01 AM
                             [**2110-7-27**]  05:26 AM
   WBC
   18.8
   18.2
   Hct
   29.7
   29.5
   Plt
   310
   326
   Cr
   0.9
   0.9
   1.1
   TCO2
   41
   40
   39
   40
   40
   38
   Glucose
   136
   154
   114
   Other labs: PT / PTT / INR:31.2/40.3/3.1, Differential-Neuts:90.2 %,
   Lymph:4.7 %, Mono:4.7 %, Eos:0.1 %, Fibrinogen:546 mg/dL, Lactic
   Acid:1.0 mmol/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   74 year old female with multiple chronic medical problems presenting
   with shortness of breath and cough, intubated for respiratory distress.
   1. Respiratory failure:
   -doing well on SBT- will extubate today
   -continue cefepime / vanc / flagyl x 8 day course (last day [**7-28**])
   -give lasix 40mg IV x 1 and goal I/O negative 500 to 1 liter
   -possibly restart home lasix 40mg daily in a.m.
   -speech and swallow consult
    3. Atrial fibrillation: continue current medications with metoprolol
   25 mg tid and diltiazem 90 mg four times per day. On coumadin for
   history of PE, but not chronically on AC.
   4. h/o PE:  INR currently 2.5, goal [**3-11**]
   -restart coumadin tonight
   5. E. coli UTI:  sensitive to Cefepime, continue to complete 7 day
   course. Unclear if Foley changed.
   -d/c foley once extubated
   6. Hypernatremia: improved with D5W initially but starting to trend
   up.  Hold TF/flushes in am for possible extubation.
   -Recheck Na in am
   7. Dyslipidemia: continue simvastatin
    8. Anemia: drifting down since admission, but currently at baseline.
   Continue to trend
    9. Chronic joint pain: Lidocaine patch
   10. Anxiety/depression: clonezepam, paroxetine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2110-7-21**] 02:11 PM
   Arterial Line - [**2110-7-21**] 07:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-07-27 09:25:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   resp distress due to pulm edema and HAP
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2110-7-26**] 03:35 PM
   Stable
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2110-7-25**] 08:00 PM
   Cefipime - [**2110-7-26**] 05:34 PM
   Ciprofloxacin - [**2110-7-26**] 09:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2110-7-26**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-7-27**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 77 (74 - 89) bpm
   BP: 112/55(74) {101/47(65) - 128/71(87)} mmHg
   RR: 19 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.1 kg (admission): 72.4 kg
   Height: 65 Inch
             Total In:
                                                                    890 mL
                                                                    211 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    590 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    235 mL
   Urine:
                                                                  1,490 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -600 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.41/58/122/32/10
   Ve: 6.1 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Bibasilar crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, palpable nodules and
   mesh
   Extremities: 2+ edema
   Skin:  wwp
   Neurologic: Following commands
   Labs / Radiology
   9.6 g/dL
   326 K/uL
   114 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.6 mEq/L
   25 mg/dL
   102 mEq/L
   142 mEq/L
   29.5 %
   18.2 K/uL
        [image002.jpg]
                             [**2110-7-25**]  06:31 AM
                             [**2110-7-25**]  09:33 AM
                             [**2110-7-25**]  12:40 PM
                             [**2110-7-25**]  04:58 PM
                             [**2110-7-26**]  05:41 AM
                             [**2110-7-26**]  05:56 AM
                             [**2110-7-26**]  09:32 AM
                             [**2110-7-26**]  12:45 PM
                             [**2110-7-27**]  05:01 AM
                             [**2110-7-27**]  05:26 AM
   WBC
   18.8
   18.2
   Hct
   29.7
   29.5
   Plt
   310
   326
   Cr
   0.9
   0.9
   1.1
   TCO2
   41
   40
   39
   40
   40
   38
   Glucose
   136
   154
   114
   Other labs: PT / PTT / INR:31.2/40.3/3.1, Differential-Neuts:90.2 %,
   Lymph:4.7 %, Mono:4.7 %, Eos:0.1 %, Fibrinogen:546 mg/dL, Lactic
   Acid:1.0 mmol/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: Vanc 32.8
   Assessment and Plan
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOXEMIA
   74 year old female with COPD, chronic hypercarbia, PEs, Afib with RVR
   with resp failure after superimposed HAP. Chr low dose steroids
   prednisone 5 daily.
   - Resp failure:  Rx for HAP, PE, AFib, fluid overload and COPD.  Stable
   since extubation. Home home O2. Add ICS and BD (home dose)
   - ID: continue Cefepime/Vancomycin/Cipro x 8 days total for HAP and UTI
   . Check diff
   - Afib: controlled.  On coumadin. Standing lasix to keep neg.
   - PE: therapeutic coumadin
   - Rest per housestaff notes
   ICU Care
   Nutrition: check for aspiration and advance feeds
   Glycemic Control: SSI, NPH
   Lines:
   PICC Line - [**2110-7-21**] 02:11 PM
   Arterial Line - [**2110-7-21**] 07:15 PM: d/c
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 129**] status: FC
   Disposition:  ICU, stable for floor
   ------ Protected Section ------
   MICU Attending Addendum
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2110-7-27**] 13:37 ------